US05204482
5.0 g (15.1 mmol) of t-butyl [2-(4-phenyl-3-pyrazolecarboxamido)ethyl]carbamate were stirred at room temperature for 16 hours with 6 ml (78.4 mmol) of trifluoroacetic acid and 10 ml of methylene chloride and thereafter evaporated under reduced pressure. The residue was treated with 7 ml of ethanolic hydrochloric acid (17.5% w/v) and evaporated. Recrystallization of the residue from methanol yielded 3.1 g (76.8%) of N-(2-aminoethyl)-4-phenyl-3-pyrazolecarboxamide hydrochloride as white crystals, melting point 285°-286°.

reactant | t-butyl [2-(4-phenyl-3-pyrazolecarboxamido)ethyl]carbamate | 15.1 mmol, 5.0 g | C1(=CC=CC=C1)C=1C(=NNC1)C(=O)NCCNC(OC(C)(C)C)=O | C17H22N4O3
reactant | trifluoroacetic acid | 78.4 mmol, 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(2-aminoethyl)-4-phenyl-3-pyrazolecarboxamide hydrochloride | 3.1 g, 76.8% | Cl.NCCNC(=O)C1=NNC=C1C1=CC=CC=C1 | InChI=1S/C12H14N4O.ClH/c13-6-7-14-12(17)11-10(8-15-16-11)9-4-2-1-3-5-9;/h1-5,8H,6-7,13H2,(H,14,17)(H,15,16);1H
